US04588732
To a solution of lithium diisopropylamide (prepared from 3.8 ml of n-butyllithium in hexane and 0.84 ml of diisopropylamine) in 10 ml tetrahydrofuran at -70° C., is added 1.35 g of triethyl 4-phosphonocrotonate in a dropwise manner over a 15 minute period. On completion of the addition, 6.0 g of 5-(5-formylpentyl)imidazo[1,5-a]pyridine is added in a dropwise manner. The reaction mixture is allowed to stir at room temperature for 15 minutes. The reaction mixture is quenched with methanol and the solvent evaporated under reduced pressure to yield 5-(9-ethoxycarbonyl-nona-6,8-dienyl)-imidazo[1,5-a]pyridine as an oil.

reactant | lithium diisopropylamide | 3.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | triethyl 4-phosphonocrotonate | 1.35 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | 5-(5-formylpentyl)imidazo[1,5-a]pyridine | 6.0 g | C(=O)CCCCCC1=CC=CC=2N1C=NC2 | C13H16N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-(9-ethoxycarbonyl-nona-6,8-dienyl)-imidazo[1,5-a]pyridine | C(C)OC(=O)C=CC=CCCCCCC1=CC=CC=2N1C=NC2 | C19H24N2O2
